US07700625B2
A stirred suspension of methyltriphenylphosphonium bromide (1.96 g, 5.5 mmol) in anhydrous tetrahydrofuran (20 ml) at 0° C. under a nitrogen atmosphere was treated dropwise with n-butyl lithium (1.6 M in hexanes, 3.5 ml, 5.5 mmol) and the resulting bright yellow solution was stirred at 0° C. for 30 minutes. A solution of methyl 5-acetyl-2,4-bis-benzyloxybenzoate (1.95 g, 5.00 mmol) in anhydrous tetrahydrofuran (20 ml) was added dropwise and the resulting mixture was allowed to warm to room temperature and was stirred for 16 hours. Methanol (10 ml) was added and the solvent was removed in vacuo. The residues were partitioned between dichloromethane and water, the organic layer was separated and the solvent removed in vacuo to afford a brown gum that was purified by column chromatography on silica. Elution with 7% ethyl acetate in petroleumether afforded methyl 2,4-bis-benzyloxy-5-isopropenyl-benzoate as a colourless solid (700 mg, 36%). 1H NMR (DMSO-d6) 7.59 (1H, s), 7.52 (2H, d), 7.64-7.32 (8H, m), 6.97 (1H, s), 5.28 (2H, s), 5.22 (2H, s), 5.09 (1H, s), 5.04 (1H, s), 3.76 (3H, s), 2.02 (3H, s). MS: [M+H]+ 389.

reactant | n-butyl lithium | 5.5 mmol, 1.6 M, 3.5 ml | C(CCC)[Li]
reactant | methyl 5-acetyl-2,4-bis-benzyloxybenzoate | 5.00 mmol, 1.95 g | C(C)(=O)C=1C(=CC(=C(C(=O)OC)C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C24H22O5
reactant | Methanol | 10 ml | CO | CH4O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 5.5 mmol, 1.96 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 2,4-bis-benzyloxy-5-isopropenyl-benzoate | 700 mg, 36% | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C | C25H24O4
